US07759373B2
A solution of 4-(t-butoxycarbonylamino)methyl-2-(4-florophenyl)-5-(3-thienyl)oxazole (455 mg) in 4N hydrogen chloride-dioxane solution was stirred at room temperature for 13 hours. The reaction mixture was concentrated under reduced pressure and the remaining volatiles were removed by evaporation with toluene, and the resulting residue was triturated with diethyl ether to obtain 4-aminomethyl-2-(4-fluorophenyl)-5-(3-thienyl)oxazole hydrochloride (288 mg) as colorless powder.

reactant | 4-(t-butoxycarbonylamino)methyl-2-(4-florophenyl)-5-(3-thienyl)oxazole | 455 mg | C(C)(C)(C)OC(=O)NCC=1N=C(OC1C1=CSC=C1)C1=CC=C(C=C1)F | C19H19FN2O3S
reactant | hydrogen chloride dioxane | 4N | Cl.O1CCOCC1
product | 4-aminomethyl-2-(4-fluorophenyl)-5-(3-thienyl)oxazole hydrochloride | 288 mg | Cl.NCC=1N=C(OC1C1=CSC=C1)C1=CC=C(C=C1)F | InChI=1S/C14H11FN2OS.ClH/c15-11-3-1-9(2-4-11)14-17-12(7-16)13(18-14)10-5-6-19-8-10;/h1-6,8H,7,16H2;1H
